US07091209B2
3-(1,3-Dioxolan-2-yl)thiophene-2-carbaldehyde (13.1 g, 71.11 mmol), prepared by a method described by Hibino (S. Hibino et al., J. Org. Chem. 1984, 49, 5006), was dissolved in ethanol (80 ml). At room temperature a solution of hydroxylamine hydrochloride (two equivalents) and sodium hydrogencarbonate (one equivalent) in water (130 ml) was added and the resultant mixture stirred at this temperature for two hours. The ethanol was removed under reduced pressure and the aqueous phase extracted with ethyl acetate (3×300 ml). The combined organic layers were washed with brine and dried over sodium sulfate. Evaporation after filtration afforded 3-(1,3-dioxolan-2-yl)thiophene-2-carbaldehyde oxime as an off-white solid (quantitative). 1H NMR (2 isomers, 1:1) (CDCl3): δ 8.56 (1H, s), 8.45 (1H, s), 7.50 (1H, d, J 5.26), 7.25 (1H, d, J 5.2), 7.21 (1H, d, J 5.28), 7.12 (1H, d, J 5.2), 6.09 (1H, s), 5.99 (1H, s), 4.17–4.00 (2H, m).

reactant | 3-(1,3-Dioxolan-2-yl)thiophene-2-carbaldehyde | 71.11 mmol, 13.1 g | O1C(OCC1)C1=C(SC=C1)C=O | C8H8O3S
reactant | hydroxylamine hydrochloride | two equivalents | Cl.NO
reactant | sodium hydrogencarbonate | one equivalent | C(O)([O-])=O.[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | water | 130 ml | O | H2O
product | 3-(1,3-dioxolan-2-yl)thiophene-2-carbaldehyde oxime | O1C(OCC1)C1=C(SC=C1)C=NO | C8H9NO3S
